US05034381
A mixture of 2-chloroadenosine (0.30 g) and 2-(1-cyclohexenyl)-ethylamine (0.63 g) is stirred under nitrogen for 6 hours at 140° C. The solution is concentrated to dryness at reduced pressure; the residue is dissolved in ethanol, treated with propylene oxide (2 ml) and stirred at room temperature for 16 hours. The mixture is concentrated to dryness at reduced pressure and flash chromatographed through a 25×150 mm column of silica gel using methylene chloride and methanol saturated with ammonia (9:1) as eluent. Fractions containing the desired product are combined, concentrated to dryness at reduced pressure; the residue is redissolved in hot ethanol, the solution is decolorized with charcoal and then concentrated to dryness. The residual solid is triturated with ethanol (2 ml) and collected to afford 2-[2-(1-cyclohexenyl)-ethylamino]adenosine, m.p. 135°-38°.

reactant | 2-chloroadenosine | 0.30 g | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12ClN5O4
reactant | 2-(1-cyclohexenyl)-ethylamine | 0.63 g | C1(=CCCCC1)CCN | C8H15N
product | 2-[2-(1-cyclohexenyl)-ethylamino]adenosine | C1(=CCCCC1)CCNC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C18H26N6O4
